US04486425
1 g of sodium 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate was disssolved in 50 ml of dimethyl sulphoxide, and 975 mg of pivaloyloxymethyl bromide were added thereto, after which the mixture was stirred at room temperature for 15 minutes. The mixture was then diluted with 200 ml of ethyl acetate, washed in turn with 50 ml of a saturated aqueous solution of sodium bicarbonate and 50 ml of a saturated aqueous solution of potassium bisulphate, and then dried over anhydrous magnesium sulphate. After filtering off the drying agent, the filtrate was concentrated under reduced pressure and the resulting residue was chromatographed through 100 g of silica gel eluted with a 1:1 by volume mixture of hexane and ethyl acetate, to afford 750 mg of the desired pivaloyloxymethyl 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate.

reactant | sodium 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 1 g | COCC=1CS[C@H]2N(C1C(=O)[O-])C(C2NC(COC2=CC=CC=C2)=O)=O.[Na+]
reactant | pivaloyloxymethyl bromide | 975 mg | C(C(C)(C)C)(=O)OCBr | C6H11BrO2
solvent | dimethyl sulphoxide | 50 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | pivaloyloxymethyl 3-methoxymethyl-7-phenoxyacetamido-3-cephem-4-carboxylate | 750 mg | COCC=1CS[C@H]2N(C1C(=O)OCOC(C(C)(C)C)=O)C(C2NC(COC2=CC=CC=C2)=O)=O | C23H28N2O8S
